US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dichloropropyl]-4-methylbenzamide
A suspension of p-toluamide, 2,2-dichloropropionaldehyde, benzotriazole, and p-toluenesulfonic acid was processed as described in Example 53A to provide the desired product.

reactant | p-toluamide | C1(=CC=C(C=C1)C(=O)N)C | C8H9NO
reactant | 2,2-dichloropropionaldehyde | ClC(C=O)(C)Cl | C3H4Cl2O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dichloropropyl]-4-methylbenzamide | N1(N=NC2=C1C=CC=C2)C(C(C)(Cl)Cl)NC(C2=CC=C(C=C2)C)=O | C17H16Cl2N4O
